US04182717
A solution of 2-methyl-3-buten-1-ol (54.16 g, 0.63 m), dihydropyran (52.92 g, 0.63 m), and p-toluenesulfonic acid (0.5 g) in ether (800 ml) is stirred at room temperature under a nitrogen atmosphere overnight. The reaction mixture is then diluted with ether (1 l) and washed with 5% sodium bicarbonate solution (1 l). The ether extract is dried (Na2SO4), filtered and solvent removed in vacuo to give 95.8 g of crude product. The crude product is purified by column chromatography on silica gel (500 g, hexane) to give (75%) 3-methyl-4-(tetrahydropyran-2-yloxy)-1-butene (80.62 g).

reactant | 2-methyl-3-buten-1-ol | 54.16 g | CC(CO)C=C | C5H10O
reactant | dihydropyran | 52.92 g | O1CCCC=C1 | C5H8O
solvent | ether | 800 ml | CCOCC | C4H10O
solvent | ether | 1 l | CCOCC | C4H10O
catalyst | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-methyl-4-(tetrahydropyran-2-yloxy)-1-butene | 80.62 g, 75% | CC(C=C)COC1OCCCC1 | C10H18O2
